US07598391B2
3-[2-(3-Cycloheptyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid
[2-(3-Cycloheptyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid ethyl ester prepared as described in general procedure (A) using cycloheptyl-cyclohexylamine and 5-aminothiazole-2-mercaptoacetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound

reactant | [2-(3-Cycloheptyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCCC1)=O | C22H35N3O3S2
reactant | cycloheptyl-cyclohexylamine | C1(CCCCCC1)NC1CCCCC1 | C13H25N
reactant | 5-aminothiazole 2-mercaptoacetic acid ethyl ester | NC1=CN=CS1.C(C)OC(CS)=O
product | 3-[2-(3-Cycloheptyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid | C1(CCCCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1CCCCC1 | C20H31N3O3S2
